US04948523
Preparation of Aminoguanidine Monooleamide
In a large reaction vessel was placed oleic acid (3,382 g, 11.97 mols), aminoguanidine bicarbonate (1,500 g of 90%, 9.92 mols), 5-W process oil (1,000 g) and a silicon anti-foamant (1 g). The mixture was stirred vigorously under nitrogen and heated to a temperature of 120° C. The aminoguanidine bicarbonate was observed to dissolve as the temperature of the reaction mixture neared 120° C. As the reaction progressed, carbon dioxide was evolved. The volume of the reaction mixture was expanded by approximately 40% due to foaming related to this gas evolution. Water was also evolved in the reaction. The reaction mixture was heated at 120° C. until a total of 308 ml of water collected. The mixture was then cooled and additional process oil was added sufficient to dilute the product to 50% activity. The final product had the following analysis: % Nitrogen, 7.02; Activity, 50%; viscosity (100° C., cSt), 19.11; TBN (mg KOH/g), 67.9; Infra-red absorbance, mm-1 (1675 cm-1, 24.9% in methyl cyclohexane), 8.57.

reactant | oleic acid | 11.97 mols, 3,382 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | aminoguanidine bicarbonate | 9.92 mols, 1,500 g | C(O)(O)=O.NNC(=N)N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 308 ml | O | H2O
product | Aminoguanidine Monooleamide | C(CCCCCCC\C=C/CCCCCCCC)(=O)N.NNC(=N)N | InChI=1S/C18H35NO.CH6N4/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20;2-1(3)5-4/h9-10H,2-8,11-17H2,1H3,(H2,19,20);4H2,(H4,2,3,5)/b10-9-;
